US07375087B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxy-2-methylpropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-5-isopropy-1H-pyrazole (0.28 g) was dissolved in methanol (6 mL). To the solution was added 10% palladium-carbon powder (54 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (0.25 g).

reactant | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-5-isopropy-1H-pyrazole | 0.28 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCC(C)(C)C(=O)OCC1=CC=CC=C1)C(C)C | C39H48N2O13
solvent | methanol | 6 mL | CO | CH4O
catalyst | palladium-carbon | 54 mg | [C].[Pd]
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxy-2-methylpropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 0.25 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCC(C)(C)C(=O)O)C(C)C | C32H42N2O13
